US07939533B2
a) (2S,4R)-Acetic Acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-hydroxy-pyrrolidin-2-ylmethyl Ester
To a solution of 1.5 g (2.4 mmol) (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide and 0.4 ml (5 mmol) pyridine in 24 ml dichloromethane were added dropwise at room temperature 0.22 ml (2.4 mmol) acetic anhydride. After stirring at room temperature for 20 h the reaction mixture was diluted with a 0.1 M aqueous hydrochloric acid solution and extracted with 3 portions of dichloromethane. The combined organic extracts were washed with a 2 M aqueous sodium carbonate solution, dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 1.1 g (71%) of the title compound as an off-white solid.

reactant | (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 2.4 mmol, 1.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C30H31F6N3O3
reactant | pyridine | 5 mmol, 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.4 mmol, 0.22 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 0.1 M | Cl | ClH
product | (2S,4R)-Acetic Acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-hydroxy-pyrrolidin-2-ylmethyl Ester | 1.1 g, 71% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1[C@@H](C[C@H](C1)O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C32H33F6N3O4
